US06288096B1
50 g (0.154 mole) 3-methoxy-4-(methylsulfonyloxy)phenethyl methanesulfonate, 48.8 g 0.4 mole) p-hydroxybenzaldehyde, 65.45 g 0.473 mole) potassium carbonate in 500 ml acetonitrile was refluxed for 4 hours. The precipitate was filtered off and the solvent was evaporated. Dichloromethane was added and the organic phase was washed with water, dried (magnesium sulfate), filtered and the solvent was evaporated to give 34 g (yield 63%) of 4-[2-(4-formylphenoxy)ethyl]-2-methoxyphenyl methanesulfonate.

reactant | 3-methoxy-4-(methylsulfonyloxy)phenethyl methanesulfonate | 0.154 mole, 50 g | CS(=O)(=O)OCCC1=CC(=C(C=C1)OS(=O)(=O)C)OC | C11H16O7S2
reactant | p-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 4-[2-(4-formylphenoxy)ethyl]-2-methoxyphenyl methanesulfonate | 34 g, yield 63% | CS(=O)(=O)OC1=C(C=C(C=C1)CCOC1=CC=C(C=C1)C=O)OC | C17H18O6S
